US05438052
Methyl 5-(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-2-carboxylate (100 mg) (0.416 mmol) are dissolved in about 5 ml of methanol. 275 mg (8.3 mmol) of hydroxylamine are added thereto at room temperature while stirring within 48 hours. The reaction mixture is made acid (pH 5.5) with 3N aqueous hydrochloric acid. The product is filtered off under suction and crystallized from methanol. There are obtained 60 mg of 7-mercapto-N-hydroxy-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidine-2-carboxamide as beige crystals of melting point 238°-239° C. (dec.).

reactant | Methyl 5-(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-2-carboxylate | 0.416 mmol, 100 mg | OCC1=NC=2N(C(=C1)S)N=C(N2)C(=O)OC | C8H8N4O3S
reactant | hydroxylamine | 8.3 mmol, 275 mg | NO | H3NO
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | about 5 ml | CO | CH4O
product | 7-mercapto-N-hydroxy-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidine-2-carboxamide | 60 mg | SC1=CC(=NC=2N1N=C(N2)C(=O)NO)CO | C7H7N5O3S
